US07501425B1
4-(Methylamino)-2-(methylthio)-5-pyrimidinecarbonitrile
Through a 5° C. solution of 14.5 g (78.1 mmol) of 4-chloro-2-(methylthio)-5-pyrimidinecarbonitrile in 800 mL of diethyl ether is bubbled methylamine gas for a period of 15 minutes. The reaction mixture is allowed to warm to room temperature, set overnight, and filtered. The solids are washed with diethyl ether, then efficiently with 50 mL of water, and dried to give 12.0 g (81%) of the title compound: mp 189-190° C.

reactant | 4-chloro-2-(methylthio)-5-pyrimidinecarbonitrile | 78.1 mmol, 14.5 g | ClC1=NC(=NC=C1C#N)SC | C6H4ClN3S
reactant | methylamine | CN | CH5N
solvent | diethyl ether | 800 mL | C(C)OCC | C4H10O
product | 4-(Methylamino)-2-(methylthio)-5-pyrimidinecarbonitrile | 12.0 g, 81% | CNC1=NC(=NC=C1C#N)SC | C7H8N4S
